US07034034B2
To a solution of trans-4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-cyclohexylcarboxylic acid methyl ester (13.4 mmol) in 50 ml of THF was added LiOH (80.3 mmol) in 30 ml of H2O. The mixture was stirred at 60° C. for 2 hours, then concentrated, diluted with H2O and washed with ether. The aqueous layer was acidified to pH 5-6, extracted with EtOAc, dried over Na2SO4, and concentrated to give trans-4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-cyclohexyl-carboxylic acid.

reactant | trans-4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-cyclohexylcarboxylic acid methyl ester | 13.4 mmol | COC(=O)[C@@H]1CC[C@H](CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C18H19F3N2O2
reactant | LiOH | 80.3 mmol | [Li+].[OH-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | H2O | 30 ml | O | H2O
product | trans-4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-cyclohexyl-carboxylic acid | FC(C=1C=C(C=CC1)C=1N=C(NC1)[C@@H]1CC[C@H](CC1)C(=O)O)(F)F | C17H17F3N2O2
